US08471005B2
2-Amino-1-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-2-methyl-propan-1-one
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine (80.00 mg, 0.186 mmol), 2-tert-butoxycarbonylamino-2-methyl-propionic acid (0.045 g, 0.22 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.043 g, 0.22 mmol) and N,N-dimethylformamide (1.54 mL, 20.0 mmol) were combined in a round-bottom flask and stirred at room temperature overnight. The reaction mixture was diluted with saturated aqueous NaHCO3 and the resulting precipitate was collected by filtration and was washed twice with water, then dried under vacuum and used in the next step without further purification. Following the experimental procedure described in Example 787b), this precipitate was converted to 2-amino-1-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-2-methyl-propan-1-one as a yellow solid (58 mg, 61%). MP: 81-89° C.; 1H-NMR (CDCl3) δ 8.69 (s, 1H), 8.30 (d, J=8.8 Hz, 1H), 7.99 (dd, J=7.6; 1.6 Hz, 1H), 7.44 (m, 2H), 7.13 (m, 1H), 7.08 (d, J=8.4 Hz, 1H), 7.02 (d, J=4.7 Hz, 1H), 6.83 (d, J=4.7 Hz, 1H), 6.70 (m, 2H), 4.84 (m, 2H), 3.89 (s, 3H), 3.84 (s, 3H), 2.88 (m, 2H), 2.72 (m, 1H), 1.90 (m, 2H), 1.63 (m, 4H), 1.45 (s, 6H); LC/MS (ESI+): 515.0 (M+H).

reactant | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine | 0.186 mmol, 80.00 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C25H27N5O2
reactant | 2-tert-butoxycarbonylamino-2-methyl-propionic acid | 0.22 mmol, 0.045 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.22 mmol, 0.043 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 20.0 mmol, 1.54 mL | CN(C=O)C | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-Amino-1-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-2-methyl-propan-1-one | NC(C(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC)(C)C | C29H34N6O3
